US08859571B2
A solution of 6-amino-2,3,4-tris(methyloxy)benzoic acid (2.7 g, 11.88 mmol) in THF (20 mL) and MeOH (20 mL) at 25° C. was treated with a solution of 2M TMS-diazomethane in Et2O (14.85 mL, 29.7 mmol) and stirred for 10 minutes before being concentrated to give methyl 6-amino-2,3,4-tris(methyloxy)benzoate (2.87 g, 99%) as a brown solid. MS (m/z) 242.1 (M+H+).

reactant | 6-amino-2,3,4-tris(methyloxy)benzoic acid | 11.88 mmol, 2.7 g | NC1=CC(=C(C(=C1C(=O)O)OC)OC)OC | C10H13NO5
reactant | TMS-diazomethane | 2M | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | Et2O | 29.7 mmol, 14.85 mL | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
product | methyl 6-amino-2,3,4-tris(methyloxy)benzoate | 2.87 g, 99% | NC1=CC(=C(C(=C1C(=O)OC)OC)OC)OC | C11H15NO5
